Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Hydrochlorothiazide / lisinopril
 
Attending: ___.
 
Chief Complaint:
CHF exacerbation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ ___ speaking only with PMHx of dementia, cad, CHF, COPD, 
afib on coumadin presenting to the ED as transfer from ___ with 
dyspnea. Per report the patient was restless and jittery this 
morning with c/o SOB and thirst. Found to have O2 sat of 85%, 2 
L O2 went on and her sats improved to 93%. FSG 147. 

Of note the pt was residing at ___ after being 
hospitalized at ___ for 10 days in ___ for CHF exacerbation 
and CP. She required hi-flow O2. Her CXR showed pulm edema, BNP 
11000. She was treated with IV lasix, compression stockings, 60 
mg torsemide that was increased to 80 mg torsemide in ___. Her 
discharge weight then was 146.3 lbs. Per nursing home report her 
dry weight is 153 lbs. 

In the ED she was found to have crackles bilaterally, ___ 
edema. In the ED her vitals were HR 110, BP 155/106, RR 32, 100% 
bipap. CXR showed stable left pleural effusion with adjacent 
left lower lung consolidation, likely relaxation atelectasis, 
interval resolution of right pleural effusion and stable or 
minimally improved mild pulmonary vascular congestion. EKG 
showed afib, LAD, LBBB, TWI I/L, V6, no sgarbossa criteria. V6 
compared with previous EKG shows ST depressions although this is 
likely just lead placement. She was given 80 mg IV Lasix in the 
ED. 

On the floor the pt was unable to provide a good history due to 
dementia but reported being thirsty and short of breath. She had 
a BP 170/80, HR 100s. She was 98% on 2 L NC. Her daughter 
reported that she has been admitted many times with a similar 
presentation, and that she get tremulous after being given 
diuretics. 

 
Past Medical History:
1. CAD: two-vessel coronary artery disease via cardiac 
catheterization in ___: 70% occlusion of mid-segment OM was a  
large + rPDA 50% lesion at its origin. Not intervened. No  
history of MI. No angina symptoms on XL isosorbide dinitrate.  
2. systolic CHF: on cath at ___ LVEF of 20% at that time, but 
last echo ___ LVEF 40-45%; very dilated LA; mild AS; mild-mod 
MR ___ mod TR (2+).  
3. PAF - on coumadin.  
4. CKD: stage III to IV. Cr 1.5-2.0 in past 36 months. Has high 
PTH with normal Ca+Ph. stable mild normocytic anemia - Hb stable 
around 10.5, increased RDW since ___. On ferrous sulfate. 
Followed q6 months by Dr. ___.  
5. HTN - PMH notable for episodes of malignant HTN X 4.  
6. Type 2 DM: on insulin. last HbA1c ___ 12.2.  
7. Asthma: well controlled on Inh fluticasone + albuterol. Never 
intubated. Never required systemic steroids. No h/o of 
pneumonia.
9. Wide left bundle-branch block
10. Gout
11. Myeloproliferative eosinophilia -> 23% eosinophilia in ___. 
Negative for FIP1L1-PDGFRA fusion, sees Dr ___ 
for this. On chronic low-dose prednisone. 
 
Social History:
___
Family History:
History of DM in the family per notes, patient denies (states 
she is the only one with diabetes). Father suffered from 
hypertension, coronary artery disease and lung cancer per 
records.
 
Physical Exam:
ON ADMISSION: 

VS: afebrile, 170/80, HR 100s, RR ___ 98% on 2 L NC 
General: NAD, shouting in ___, appeared uncomfortable
HEENT: NCAT, PERRL, EOMI, large tongue, MMM
Neck: supple, JVP difficult to appreciate but may be 8 cm 
CV: soft I/VI systolic murmur on exam, tachycardic 
Lungs: diffusely wheezy with end-expiratory crackles in L 
anterior lung
Abdomen: soft, NT/ND, BS+
Ext: WWP, trace pitting edema to the ankles, no pretibial edema. 
Good pulses. 
Neuro: moving all extremities grossly 

ON DISCHARGE: 

Vitals:  98.1 ___ 18 94%RA 
General: NAD, sleeping
HEENT: NCAT, PERRL, EOMI, MMM
Neck: supple, JVP difficult to appreciate but may be 8 cm 
CV: soft I/VI systolic murmur on exam
Lungs: patient deferred posterior exam, scattered crackles in 
anterior lung fields 
Abdomen: soft, NT/ND, BS+
Ext: WWP, 1+ dependent edema in thighs, no pretibial edema. Good 
pulses. 

Weight on admission: 71.5 kg 
Today's weight: 63.8 kg 

 
Pertinent Results:
ON ADMISSION: 

___ 09:15AM BLOOD WBC-6.9 RBC-3.55* Hgb-8.9* Hct-32.3* 
MCV-91 MCH-25.1* MCHC-27.6* RDW-22.5* RDWSD-74.5* Plt ___
___ 09:15AM BLOOD Neuts-72.1* Lymphs-13.0* Monos-8.8 
Eos-5.1 Baso-0.9 Im ___ AbsNeut-4.99 AbsLymp-0.90* 
AbsMono-0.61 AbsEos-0.35 AbsBaso-0.06
___ 09:15AM BLOOD ___ PTT-36.0 ___
___ 09:15AM BLOOD Plt ___
___ 09:15AM BLOOD Glucose-112* UreaN-57* Creat-1.7* Na-146* 
K-4.4 Cl-106 HCO3-27 AnGap-17
___ 05:00PM BLOOD Glucose-121* UreaN-55* Creat-1.6* Na-146* 
K-4.1 Cl-106 HCO3-25 AnGap-19
___ 09:15AM BLOOD estGFR-Using this
___ 09:15AM BLOOD CK(CPK)-67
___ 09:15AM BLOOD CK-MB-3 ___
___ 09:15AM BLOOD cTropnT-0.10*
___ 09:15AM BLOOD Calcium-9.2 Phos-4.9* Mg-2.3
___ 05:00PM BLOOD Calcium-9.1 Phos-4.4 Mg-2.3
___ 09:31AM BLOOD ___ pO2-24* pCO2-60* pH-7.31* 
calTCO2-32* Base XS-0
___ 03:00PM BLOOD ___ pO2-37* pCO2-48* pH-7.38 
calTCO2-29 Base XS-1
___ 09:31AM BLOOD O2 Sat-28
___ 09:31AM BLOOD Lactate-1.6

INTERIM: 

___ 10:00AM BLOOD ___ PTT-39.9* ___
___ 05:25AM BLOOD ___ PTT-40.9* ___
___ 05:25AM BLOOD WBC-6.2 RBC-3.46* Hgb-8.8* Hct-31.6* 
MCV-91 MCH-25.4* MCHC-27.8* RDW-22.3* RDWSD-73.0* Plt ___
___ 05:25AM BLOOD Glucose-191* UreaN-51* Creat-1.7* Na-143 
K-3.8 Cl-104 HCO3-28 AnGap-15
___ 05:25AM BLOOD Calcium-9.0 Phos-4.2 Mg-2.2
___ 09:39AM URINE RBC-2 WBC-12* Bacteri-FEW Yeast-NONE 
Epi-0
___ 09:39AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 08:01AM URINE U-PEP-NEGATIVE F
___ 08:01AM URINE Hours-RANDOM TotProt-27

MICRO: 

___ 2:00 pm URINE      Source: Catheter. 

   URINE CULTURE (Pending): 

___ 10:10 am BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending): 

IMAGING: 

EKG: 
Atrial fibrillation with rapid ventricular response. Left 
bundle-branch block.
Compared to the previous tracing of ___ the ventricular 
response is now
rapid. The other findings are similar.

CXR ___: 

1. Small to moderate pleural effusion, quite similar to ___, with
underlying collapse and/or consolidation.
2. Interval resolution of right pleural effusion.
3. Mild pulmonary vascular congestion, similar or slightly 
improved.

CXR ___: 
In comparison with the study of ___, scatter radiation 
related to the
size of the patient greatly obscures the image.  Continued 
enlargement of the
cardiac silhouette with some elevation of pulmonary venous 
pressure.  What
appears to be atelectatic changes at the right base and 
opacification at the
left base that could well represent some volume loss in the left 
lower lobe
and pleural effusion.

ON DISCHARGE: 

___ 09:00AM BLOOD WBC-9.2 RBC-4.04 Hgb-10.2* Hct-36.5 
MCV-90 MCH-25.2* MCHC-27.9* RDW-22.2* RDWSD-72.5* Plt ___
___ 09:00AM BLOOD Plt ___
___ 09:00AM BLOOD ___ PTT-40.6* ___
___ 12:40PM BLOOD Calcium-9.0 Phos-4.2 Mg-2.0
___ 10:00AM BLOOD PEP-TRACE ABNO IgG-___ IgA-___* IgM-52 
IFE-MONOCLONAL
___ 09:00AM BLOOD ___ PTT-40.6* ___
 
Brief Hospital Course:
___ year old ___ woman with h/o systolic CHF with EF 
40%, CAD with 2-vessel disease, COPD, afib on coumadin 
presenting with SOB likely due to acute CHF exacerbation. Her 
CXR is interesting for a stable left pleural effusion with only 
mild pulmonary vascular congestion. She was diuresed and 
discharged to rehab. 

ACTIVE ISSUES: 
#  CHF exacerbation: the patient presented with SOB and hypoxia 
most likely due to a CHF exacerbation. The trigger for her 
exacerbation was unclear, but she has been admitted from rehab 
facility for CHF exacerbations multiple times in the past year. 
It was possible that d/t agitation and restlessness she had 
hypertensive episodes that caused flash pulmonary edema. Her 
condition was certainly exacerbated by underlying reactive 
airway disease. She received 80 IV lasix in the ED and continued 
to receive IV lasix on a BID basis for fluid overload. Her urine 
output was monitored with a Foley. She required periodic 2 L NC 
for hypoxia, although she was not requiring O2 by day of 
discharge. During this time, her home torsemide was initially 
stopped. It was recontinued on the day prior to discharge at an 
unchanged dose of 80 mg daily. Her other CHF 
medications--amlodipine, metoprolol tartrate, and 
valsartan--were continued. 

# tremor: patient was noted to have tremor/shaking on exam in 
the ED. She had no other focal neurological deficits, although 
this was difficult to interpret in light of her agitated mental 
state. Her daughter reports has happened in the past when she 
gets diuretics (confirmed by discharge summaries). This could be 
due to electrolyte loss but the association between tremor and 
lasix is unclear at the moment. As she continued to receive 
diuretics, she did not develop worsening of the tremor, and it 
in fact improved such that it was gone by hospital day #2 and 
did not recur. 

# UTI: She had a negative UA on admission, although she has h/o 
severe UTI in the past. After day #3 with the Foley in place, 
turbid and foul-smelling urine was noted, prompting a repeat UA 
that showed 12 WBCs and bacteria. She was started on empiric 
5-day course of PO Cipro for UTI, with ucx pending at time of 
discharge. 

#  atrial fibrillation: the patient's home dose of warfarin was 
decreased to 3 on hospital day #1, and continued at this dose 
given supratherapeutic INR, although she missed a dose on ___ 
due to pharmacy withholding the dose for an INR of 4.7. She was 
discharged with a changed dose of 2 mg warfarin daily. She was 
continued on her home dose of metoprolol.  

CHRONIC ISSUES: 

# dementia: patient has h/o dementia and agitated delirium which 
is usual for her in the setting of hospitalizations where she is 
exposed to new people and environments. During her stay, she was 
more agitated for the first couple of days, and at one point was 
throwing things at her nurses. ___ was intermittently agitated, 
and completely dis-oriented to place, time, and location which 
is her known norm. She did not require olanzapine (which in the 
past has not been successful). She was continued on her home 
12.5 mg quetiapine and 25 mg tramadol qhs. Beginning on ___, 
she refused IV access and pulled out her IVs so could not be 
given IV meds. She had to be persuaded by ___ staff 
to allow the phlebotomist to draw her blood. She had to be 
coaxed to take her PO medications with chocolate ice cream, 
which she enjoys. 

#  CAD: two-vessel disease as seen on cath in ___. She was 
continued on her home 81 mg ASA, metoprolol, atorvastatin 10 mg 
  
#  HTN: she was continued on home metoprolol 50 mg TID, imdur 90 
mg 
 
#  Reactive airway disease: she was given duonebs as needed for 
SOB 

#  CKD: patient's admitting Cr was 1.7, giving her an eGFR of 
24.6. Her outpt nephrologist feels this is most likely a 
combination of microvascular disease from diabetes and 
hypertension with an overlay of cardiorenal syndrome. Her Cr 
remained stable around 1.5 for most of her stay and increased to 
1.8 on day of discharge, felt to ___ ___ UTI. 

***Transitional issues:***

- anticoagulation: Please check INR on ___. Pt is on reduced 
dose of warfarin (2 mg). ___ need to adjust coumadin while on 
abx. 
- torsemide dose: pt will be continued on 80 torsemide daily. 
Discuss any changes to her HF regimen with heart failure clinic. 

- pending labs: please follow up on urine and blood cultures 
from this stay. UPEP is still pending as well. 
- ***DNR/DNI*** during this hospitalization DNR/DNI with 
non-invasive ventilation allowed was confirmed with pt's 
daughter and HCP ___ ___ (see OMR note) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 3.5 mg PO DAILY16 
2. Ferrous Sulfate 325 mg PO BID 
3. Ascorbic Acid ___ mg PO DAILY 
4. PredniSONE 5 mg PO DAILY 
5. QUEtiapine Fumarate 25 mg PO QHS 
6. Ranitidine 150 mg PO DAILY 
7. Senna 8.6 mg PO BID:PRN constipation 
8. Docusate Sodium 100 mg PO BID constipation 
9. Acetaminophen 650 mg PO Q6H:PRN pain ___. Glargine 16 Units Breakfast
11. Torsemide 80 mg PO DAILY 
12. Pregabalin 25 mg PO QHS 
13. TraMADOL (Ultram) 25 mg PO BID 
14. Valsartan 40 mg PO BID 
15. Ipratropium-Albuterol Neb 2 NEB NEB Q6H SOB 
16. Aspirin 81 mg PO DAILY 
17. Atorvastatin 10 mg PO QPM 
18. Amlodipine 10 mg PO DAILY 
19. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
20. Metoprolol Tartrate 50 mg PO TID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain ___. Amlodipine 10 mg PO DAILY 
3. Ascorbic Acid ___ mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Docusate Sodium 100 mg PO BID constipation 
7. Ferrous Sulfate 325 mg PO BID 
8. Glargine 16 Units Breakfast
9. Ipratropium-Albuterol Neb 2 NEB NEB Q6H SOB 
10. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
11. Metoprolol Tartrate 50 mg PO TID 
12. PredniSONE 5 mg PO DAILY 
13. Pregabalin 25 mg PO QHS 
14. QUEtiapine Fumarate 25 mg PO QHS 
15. Ranitidine 150 mg PO DAILY 
16. Senna 8.6 mg PO BID:PRN constipation 
17. TraMADOL (Ultram) 25 mg PO BID 
18. Valsartan 40 mg PO BID 
19. Warfarin 2 mg PO DAILY16 
check INR on ___. Ciprofloxacin HCl 250 mg PO Q24H Duration: 4 Days 
21. Torsemide 80 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
acute on chronic congestive heart failure 
flash pulmonary edema 

Secondary: 
type 2 diabetes 
CAD 
atrial fibrillation on warfarin
CKD 4
delirium on dementia  
COPD 
HTN 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from your rehab facility because you 
had trouble breathing and your oxygen levels were low. You were 
treated with diuretics here to remove fluid from your lungs, 
which improved your breathing. You did not develop a tremor as 
you have in past admissions. 

It was a pleasure taking care of you, and we wish you all the 
best. 

Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___